US07638515B2
5-{[6-Chloro-4,4-dimethyl-2-hydroxy-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronapthalen-1-yl]amino}-6-methylquinolin-2(1H)-one
Analogously to Example 10, the corresponding imine is produced starting from 500 mg of 4-(3-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 300 mg of 5-amino-6-methylquinolin-2(1H)-one. 10 mg of the title compound is obtained by reaction of 80 mg of the imine with 2.5 ml of titanium tetrachloride solution (1 M in dichloromethane) in 4.3 ml of dichloromethane.

reactant | 4-(3-chloro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 500 mg | ClC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16ClF3O3
reactant | 5-amino-6-methylquinolin-2(1H)-one | 300 mg | NC1=C2C=CC(NC2=CC=C1C)=O | C10H10N2O
solvent | dichloromethane | 4.3 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1 M, 2.5 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[6-Chloro-4,4-dimethyl-2-hydroxy-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronapthalen-1-yl]amino}-6-methylquinolin-2(1H)-one | 10 mg | ClC=1C(=C2C(CC(C(C2=CC1)NC1=C2C=CC(NC2=CC=C1C)=O)(C(F)(F)F)O)(C)C)OC | C24H24ClF3N2O3
